US05217643
In a 300 ml-reaction vessel, 35.0 g (2.19×10-1M) of 2,5-dicyanohydroquinone, 23.8 g (1.44×10-1M) of n-hexylbromide, 20.0 g (1.45×10-1M) of potassium carbonate and 180 ml of DMF were placed, followed by stirring for 3 hours at 120° C. After the reaction, the reaction mixture was cooled and poured into 500 ml of 4N-hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with water and dried with anhydrous magnesium sulfate, followed by distilling-off of the solvent. The resultant residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=2/1) to obtain 17.6 g of a crude product. The crude product was dissolved in ethanol and treated with activated carbon, followed by recrystallization from ethanol to obtain 8.2 g of 4-hexyloxy-2,5-dicyanophenol (Yield: 22.9%).

reactant | 2,5-dicyanohydroquinone | 2.19×10-1M, 35.0 g | C(#N)C1=C(O)C=C(C(=C1)O)C#N | C8H4N2O2
reactant | n-hexylbromide | 1.44×10-1M, 23.8 g | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 1.45×10-1M, 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
product | 4-hexyloxy-2,5-dicyanophenol | 8.2 g, Yield: 22.9% | C(CCCCC)OC1=CC(=C(C=C1C#N)O)C#N | C14H16N2O2
